US06350907B1
A mixture of palladium acetate (17 mg, 0.075 mmol) and tri-(2-methylphenyl)phosphine (46 mg, 0.15 mmol) in anhydrous acetonitrile (2 mL) was sonicated at room temperature for 1 min until a creamy-coloured suspension formed. This suspension was added via Pasteur pipette to a stirred solution of (2R)-2-[(4S)-2,2-dimethyl-5-oxo-1,3-dioxolan-4-yl]-N-[(1S)-2,2-dimethyl-1-({[(1R)-1-phenylethyl]amino}carbonyl)propyl]pent-4-enamide (650 mg, 1.5 mmol), 1-bromo-3-fluoro-4-phenoxybenzene (Preparation 10)(587 mg, 2.26 mmol), and N-ethylmorpholine (348 μL, 3.0 mmol) in anhydrous acetonitrile (2.5 mL) under nitrogen. The mixture was purged with nitrogen, then heated at reflux for 16 h. After being cooled, the mixture was poured into ethyl acetate (100 mL) and washed with 5% aqueous citric acid (30 mL), saturated aqueous sodium chloride (50 mL), dried (NaSO4), and concentrated under reduced pressure. The residue was purified by flash chromatography (gradient elution with dichloromethane:ether) to give mainly (2R, 5E)-2-[(4S)-2,2-dimethyl-5-oxo-1,3-dioxolan-4-yl]-N-[(1S)-2,2-dimethyl-1-({[(1R)-1-phenylethyl]amino}carbonyl)propyl]-5-(3-fluoro-4-phenoxyphenyl)pent-4-enamide as a pale yellow foam (210 mg, 22%). 1H nmr suggested that alkene isomers were also present. The mixture of alkenes was taken onto the next step (see b, below).

reactant | tri-(2-methylphenyl)phosphine | 0.15 mmol, 46 mg | CC1=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C | C21H21P
reactant | (2R)-2-[(4S)-2,2-dimethyl-5-oxo-1,3-dioxolan-4-yl]-N-[(1S)-2,2-dimethyl-1-({[(1R)-1-phenylethyl]amino}carbonyl)propyl]pent-4-enamide | 1.5 mmol, 650 mg | CC1(OC([C@@H](O1)[C@H](C(=O)N[C@@H](C(C)(C)C)C(=O)N[C@H](C)C1=CC=CC=C1)CC=C)=O)C | C24H34N2O5
reactant | 1-bromo-3-fluoro-4-phenoxybenzene | 2.26 mmol, 587 mg | BrC1=CC(=C(C=C1)OC1=CC=CC=C1)F | C12H8BrFO
reactant | N-ethylmorpholine | 3.0 mmol, 348 μL | C(C)N1CCOCC1 | C6H13NO
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | acetonitrile | 2.5 mL | C(C)#N | C2H3N
catalyst | palladium acetate | 0.075 mmol, 17 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (2R, 5E)-2-[(4S)-2,2-dimethyl-5-oxo-1,3-dioxolan-4-yl]-N-[(1S)-2,2-dimethyl-1-({[(1R)-1-phenylethyl]amino}carbonyl)propyl]-5-(3-fluoro-4-phenoxyphenyl)pent-4-enamide | 210 mg, 22% | CC1(OC([C@@H](O1)[C@H](C(=O)N[C@@H](C(C)(C)C)C(=O)N[C@H](C)C1=CC=CC=C1)C\C=C\C1=CC(=C(C=C1)OC1=CC=CC=C1)F)=O)C | C36H41FN2O6
